US06498169B1
Synthesis of 4-[N-(Indan-5-yl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (142 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as white powder after converting a free base to a trihydrochloride.

reactant | 4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 142 mg | C1CCC2=CC(=CC=C12)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C29H35N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(Indan-5-yl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.C1CCC2=CC(=CC=C12)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C44H50N4O6.3ClH/c1-49-39-23-33(24-40(50-2)43(39)53-5)37-20-29(12-16-45-37)27-47-18-14-35(15-19-47)48(36-11-10-31-8-7-9-32(31)22-36)28-30-13-17-46-38(21-30)34-25-41(51-3)44(54-6)42(26-34)52-4;;;/h10-13,16-17,20-26,35H,7-9,14-15,18-19,27-28H2,1-6H3;3*1H
